US07423035B2
8-{2-[1-(2,6-dimethyl-benzyl)-cyclopropylamino]-1-hydroxy-ethyl}-5-hydroxy-4H-benzo[1,4]oxazin-3-one
The compound is prepared according to general method 3 from 329 mg (1 mmol) 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 175 mg (1 mmol) 1-(2,6-dimethyl-benzyl)-cyclopropylamine. Yield: 52 mg (11%, trifluoroacetate); mass spectroscopy: [M+H]+=383.

reactant | 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 329 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)O)=O | C17H15NO6
reactant | 1-(2,6-dimethyl-benzyl)-cyclopropylamine | 1 mmol, 175 mg | CC1=C(CC2(CC2)N)C(=CC=C1)C | C12H17N
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 8-{2-[1-(2,6-dimethyl-benzyl)-cyclopropylamino]-1-hydroxy-ethyl}-5-hydroxy-4H-benzo[1,4]oxazin-3-one | CC1=C(CC2(CC2)NCC(O)C2=CC=C(C=3NC(COC32)=O)O)C(=CC=C1)C | C22H26N2O4
